US04616014
A mixture of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (2.17 g) and 3-[3(1-pyrrolidinylmethyl)phenoxy]propylamine (3.04 g) was heated at 150° C. for 33 hours and dissolved in a small volume of chloroform after cooling. The solution was purified by column chromatgraphy on silica gel (100 g) with chloroform and then a mixture of chloroform and methanol (20:1) as eluents to give 3-[3-[3-(1-pyrrolidinylmethyl)-phenoxy]propylamino]-5-methyl-6-phenyl-1,2,4-triazine (2.57 g).

reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 2.17 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
reactant | 3-[3(1-pyrrolidinylmethyl)phenoxy]propylamine | 3.04 g | N1(CCCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[3-[3-(1-pyrrolidinylmethyl)-phenoxy]propylamino]-5-methyl-6-phenyl-1,2,4-triazine | 2.57 g | N1(CCCC1)CC=1C=C(OCCCNC=2N=NC(=C(N2)C)C2=CC=CC=C2)C=CC1 | C24H29N5O
